US08039479B2
To a solution of 100 g (0.7 mol) of 2-chloro-4-fluorotoluene in 250 ml of concentrated H2SO4 is added portion-wise 85 g (0.875 mol) of KNO3 at 0° C. (addition of the whole amount of KNO3 is finished in about 1 hour). The reddish mixture is slowly warmed-up at room temperature overnight and quenched over crushed ice and extracted with EtOAc. The organic layers are combined, dried over MgSO4 and concentrated. The crude oil is then purified over a large silica plug (eluent: 97/3 hexanes/EtOAc) to afford 2-chloro-4-fluoro-5-nitrotoluene as a pale yellow oil that solidifies upon standing. 1H NMR (CDCl3, 400 Mz): 7.97 (d, J=8.0 Hz, 1H), 7.32 (d, J=10.4 Hz, 1H), 2.43 (s, 3H).

reactant | 2-chloro-4-fluorotoluene | 0.7 mol, 100 g | ClC1=C(C=CC(=C1)F)C | C7H6ClF
reactant | KNO3 | 0.875 mol, 85 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 250 ml | OS(=O)(=O)O | H2O4S
product | 2-chloro-4-fluoro-5-nitrotoluene | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])C | C7H5ClFNO2
